US07067540B2
3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-(2-morpholin-4-ylethyl)pyridin-2(1H)-one
3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one (0.100 g, 0.303 mmol), cesium carbonate (0.296 g, 0.909 mmol), and 4-(2-chloroethyl)morpholine (0.059 g, 0.394 mmol) were suspended in acetonitrile (4 mL). The reaction was stirred at 60° C. overnight. H2O (25 mL) was added and the resulting precipitate was collected by filtration. The solid was subjected to chromatography (silica gel, ethyl acetate with 10% methanol) afforded an off-white solid (0.040 g, 30%). 1H NMR (400 MHz, CDCl3) δ 7.55 (app q, J=7.92 Hz, 1H), 6.93 (app t, J=8.39 Hz, 1H), 6.84 (app t, J=9.40 Hz, 1H), 5.95 (s, 1H), 5.18 (s, 2H), 4.16 (app t, J=6.78 Hz, 2H), 3.68 (s, 4H), 2.65 (app t, J=6.38 Hz, 2H), 2.54 (s, 4H), 2.43 (s, 3H). ES-HRMS m/z 443.0743 (M+H C19H21BrF2N2O3 requires 443.0776).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 0.303 mmol, 0.100 g | BrC=1C(NC(=CC1OCC1=C(C=C(C=C1)F)F)C)=O | C13H10BrF2NO2
reactant | cesium carbonate | 0.909 mmol, 0.296 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(2-chloroethyl)morpholine | 0.394 mmol, 0.059 g | ClCCN1CCOCC1 | C6H12ClNO
reactant | H2O | 25 mL | O | H2O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-(2-morpholin-4-ylethyl)pyridin-2(1H)-one | 0.040 g, 30% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CCN1CCOCC1)=O | C19H21BrF2N2O3
